US05492925
Preparation of [(5-Chloro-2-thenoyl)methyl]malononitrile
A solution of 2-bromo-1-(5-chloro-2-thienyl)ethanone (11.50 g, 48 mmol) in tetrahydrofuran is added to a solution of malononitrile (3.17 g, 48 mmol) and potassium tert-butoxide (5.70 g, 51 mmol) in tetrahydrofuran at 0° C. The reaction mixture is stirred for several minutes, concentrated in vacuo, diluted with water and filtered to collect solids. Flash chromatography of the solids using silica gel and a (4:1) hexane/ethyl acetate solution gives the title compound as a yellow solid, mp 155°-158° C.

reactant | 2-bromo-1-(5-chloro-2-thienyl)ethanone | 48 mmol, 11.50 g | BrCC(=O)C=1SC(=CC1)Cl | C6H4BrClOS
reactant | malononitrile | 48 mmol, 3.17 g | C(CC#N)#N | C3H2N2
reactant | potassium tert-butoxide | 51 mmol, 5.70 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [(5-Chloro-2-thenoyl)methyl]malononitrile | ClC1=CC=C(S1)C(=O)CC(C#N)C#N | C9H5ClN2OS
